US08603975B2
To a solution of 2,6-cis-dimethylpiperazine (3 g) in CH2Cl2 (15 ml) were added TEA (3.7 ml) and Boc2O (5.73 g) under ice-cooling, and the mixture was stirred at this temperature for 2 hours. It was then treated with H2O and extracted with CH2Cl2 three times. The combined extracts were dried over MgSO4 and concentrated. The residue was chromatographed on silica gel (CH2Cl2:acetone=1:1 to 2:3) to give tert-butyl cis-3,5-dimethyl-1-piperazinecarboxylate (5.47 g).

reactant | 2,6-cis-dimethylpiperazine | 3 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | Boc2O | 5.73 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | O | H2O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl cis-3,5-dimethyl-1-piperazinecarboxylate | 5.47 g | C[C@@H]1CN(C[C@@H](N1)C)C(=O)OC(C)(C)C | C11H22N2O2
